US07923456B2
Step 2: 8-Fluoro-5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide
To a solution of 8-fluoro-5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide (298 mg, 0.55 mmol) in methanol (5 mL) was added hydrochloric acid in dioxane (2 mL, 4N, 8.0 mmol). The reaction mixture was stirred at room temperature for 1 hour then concentrated in vacuo. The resultant residue was dissolved in ethyl acetate (5 mL), washed with aqueous saturated sodium bicarbonate solution (10 mL) and the aqueous fraction extracted twice with ethyl acetate (2×5 mL). The combined organic fractions were washed with brine (10 mL), dried (MgSO4) and concentrated in vacuo. The resultant residue was subjected to reverse phase preperative HPLC (10-90% acetonitrile/water 0.1% formic acid, Phenominex gemini PhC6, 5 micron, 250×20 mm). The resultant product was dissolved in ethyl acetate (5 mL) and washed with aqueous saturated sodium bicarbonate solution (10 mL). The aqueous fraction was extracted twice with ethyl acetate (2×10 mL) and the combined organics washed with brine (20 mL), dried (MgSO4) and concentrated in vacuo to yield the title compound as a white solid (83 mg, 30%). LCMS (Method A): RT=7.11 min, [M+H]+=505.

reactant | 8-fluoro-5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide | 0.55 mmol, 298 mg | CC1(OC[C@@H](O1)CONC(=O)C=1C=C(C=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2)F)C | C20H19F2IN4O4
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 8.0 mmol, 4N, 2 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 5 mL | CO | CH4O
product | 8-Fluoro-5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide | 83 mg, 30% | O[C@@H](CONC(=O)C=1C=C(C=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2)F)CO | C17H15F2IN4O4
